US08466282B2
(3R,5S)-1-(tert-butoxycarbonyl)-5-[(2-methylpropyl){[1-(2-phenylethyl)-1H-benzimidazol-2-yl]carbonyl}amino]piperidine-3-carboxylic acid
1-tert-Butyl 3-methyl(3R,5S)-5-[(2-methylpropyl){[1-(2-phenylethyl)-1H-benzimidazol-2-yl]carbonyl}amino]piperidine-1,3-dicarboxylate (1.12 g) was dissolved in methanol, 2M aqueous sodium hydroxide solution (10 ml) was added dropwise at room temperature. The reaction mixture was stirred at 50° C. for 3 hr. The reaction mixture was adjusted to pH 7 with 1M hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the object product (1.07 g).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-[(2-methylpropyl){[1-(2-phenylethyl)-1H-benzimidazol-2-yl]carbonyl}amino]piperidine-1,3-dicarboxylate | 1.12 g | CC(CN([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)C(=O)C1=NC2=C(N1CCC1=CC=CC=C1)C=CC=C2)C | C32H42N4O5
reactant | sodium hydroxide | 2M, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | CO | CH4O
product | (3R,5S)-1-(tert-butoxycarbonyl)-5-[(2-methylpropyl){[1-(2-phenylethyl)-1H-benzimidazol-2-yl]carbonyl}amino]piperidine-3-carboxylic acid | 1.07 g | C(C)(C)(C)OC(=O)N1C[C@@H](C[C@@H](C1)N(C(=O)C1=NC2=C(N1CCC1=CC=CC=C1)C=CC=C2)CC(C)C)C(=O)O | C31H40N4O5
